US06344590B1
Initially, a 13% by weight ethylmagnesium bromide-tetrahydrofuran solution was prepared from ethyl bromide and metallic magnesium, and 61.51 g (0.060 mol) of the solution was placed in a flask. To this solution was added dropwise a solution of 4.76 g (0.02 mol) of n-butyl 1-adamantanecarboxylate in 7.21 g of tetrahydrofuran while maintaining the inner temperature not exceeding 35° C., followed by stirring at room temperature for 1 hour.

reactant | ethyl bromide | C(C)Br | C2H5Br
reactant | magnesium | [Mg] | Mg
reactant | n-butyl 1-adamantanecarboxylate | 0.02 mol, 4.76 g | C12(CC3CC(CC(C1)C3)C2)C(=O)OCCCC | C15H24O2
solvent | tetrahydrofuran | 7.21 g | O1CCCC1 | C4H8O
product | ethylmagnesium bromide tetrahydrofuran | C(C)[Mg]Br.O1CCCC1 | InChI=1S/C4H8O.C2H5.BrH.Mg/c1-2-4-5-3-1;1-2;;/h1-4H2;1H2,2H3;1H;/q;;;+1/p-1
